US07253164B2
(3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazin-2-yl)-phosphonic acid diethyl ester (12.2 mmol) is dissolved in 40 mL of anhydrous MeOH and formaldehyde (37%) in water (12.2 mmol) is added to the orange solution. NaOMe (2N in MeOH) (12.2 mmol) is added and the reaction is cooled down to 0° C. The solid that precipitates is filtered to give 2-methylene-4H-benzo[1,4]thiazin-3-one. Yield: 72%. 1H NMR (400 MHz, CDCl3): δ 9.03 (s, 1H), 7.06 (m, 2H), 6.94 (m, 1H), 6.81 (m, 1H), 6.80 (s, 1H), 5.62 (s, 1H). MS: (ES+): 178.2 [M+1].

reactant | (3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazin-2-yl)-phosphonic acid diethyl ester | 12.2 mmol | C(C)OP(OCC)(=O)C1SC2=C(NC1=O)C=CC=C2 | C12H16NO4PS
reactant | formaldehyde | C=O | CH2O
reactant | water | 12.2 mmol | O | H2O
reactant | NaOMe | 12.2 mmol, 2N | C[O-].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
product | 2-methylene-4H-benzo[1,4]thiazin-3-one | Yield: 72% | C=C1SC2=C(NC1=O)C=CC=C2 | C9H7NOS
